US06573274B1
Methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride (169 mg) was suspended in methanol (2 ml) and valeraldehyde (70 mg) and sodium cyanoborohydride (51 mg) were added. The mixture was stirred at room temperature for 4 hr. To the reaction mixture was added 1N hydrochloric acid and the mixture was stirred for 1 hr. Saturated aqueous sodium hydrogen carbonate solution was added to neutralize the solution and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with chloroform:methanol=100:1. The objective fraction was concentrated under reduced pressure to give methyl 3-(2-chloro-4-(methyl-(1-pentyl)amino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (179 mg) as a pale-yellow oil.

reactant | Methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride | 169 mg | Cl.Cl.ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)NC
reactant | valeraldehyde | 70 mg | C(CCCC)=O | C5H10O
reactant | sodium cyanoborohydride | 51 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | methyl 3-(2-chloro-4-(methyl-(1-pentyl)amino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 179 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)N(CCCCC)C | C22H27ClN4O2
